US07495103B2
A suspension of the mixture of N-(3-hydroxy-phenyl)-acetamide and acetic acid 3-fonnylamino-phenyl ester (18.12 g, 0.12 mol), 3-methyl-but-3-en-1-ol (8.6 g, 0.1 mol), DEAD (87 g, 0.2 mol) and Ph3P (31.44 g, 0.12 mol) in benzene (250 mL) was heated at reflux overnight and then cooled to room temperature. The reaction mixture was poured into water and the organic layer was separated. The aqueous phase was extracted with EtOAc (300×3 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and concentrated. The residue was purified by column chromatography to give N-[3-(3-methyl-but-3-enyloxy)-phenyl]-acetamide (11 g, 52%).

reactant | N-(3-hydroxy-phenyl)-acetamide | OC=1C=C(C=CC1)NC(C)=O | C8H9NO2
reactant | 3-methyl-but-3-en-1-ol | 0.1 mol, 8.6 g | CC(CCO)=C | C5H10O
reactant | DEAD | 0.2 mol, 87 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | Ph3P | 0.12 mol, 31.44 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | benzene | 250 mL | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | N-[3-(3-methyl-but-3-enyloxy)-phenyl]-acetamide | 11 g, 52% | CC(CCOC=1C=C(C=CC1)NC(C)=O)=C | C13H17NO2
